US07045516B1
(a) 5-Chloro-2-(1-homopiperazinyl)-7-methylbenzoxazole
Under nitrogen atmosphere, a suspension of 5-chloro-2-mercapto-7-methylbenzoxazole (70 g, 35 mol) in toluene (1.4 L) was added with homopiperazine (70 g, 0.35 mol) with stirring, and then the mixture was heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, and poured into a mixture of ethyl acetate (0.7 L) and water (0.7 L). The mixture was added dropwise with 6 N hydrochloric acid (55 mL) with stirring to adjust its pH to 7.5. The separated organic layer was washed with water (1.2 L). The remaining organic layer was added with water (1.2 L), and then added dropwise with 6 N hydrochloric acid with stirring to adjust its pH to 1–1.5. The separated aqueous layer was added with ethyl acetate (1.4 L), and then added with 5 N aqueous sodium hydroxide (180 mL) with stirring to adjust its pH to 8.0. The separated organic layer was washed with water (1.4 L), and dried anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain the title compound as a crude product (59 g). A solution of the crude product in ethyl acetate (1.2 L) was added with activated carbon (1.5 g), and the mixture was stirred for 30 minutes at room temperature. Then, the activated carbon was removed by filtration, and the solvent was evaporated under reduced pressure. The resultant solid was added with acetonitrile (177 mL), and was dissolved by warming the mixture to 60 C.° with stirring. The resultant uniform solution was left stand for cooling to room temperature over 1 hour, and then further cooled to 5 C.° The deposited crystals were collected by filtration, and dried under reduced pressure at 40 C.° for 4 hours to obtain the title compound (34 g).

reactant | 5-chloro-2-mercapto-7-methylbenzoxazole | 35 mol, 70 g | ClC=1C=C(C2=C(N=C(O2)S)C1)C | C8H6ClNOS
reactant | homopiperazine | 0.35 mol, 70 g | N1CCNCCC1 | C5H12N2
reactant | ethyl acetate | 0.7 L | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6 N, 55 mL | Cl | ClH
solvent | toluene | 1.4 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.7 L | O | H2O
product | 5-Chloro-2-(1-homopiperazinyl)-7-methylbenzoxazole | ClC=1C=C(C2=C(N=C(O2)N2CCNCCC2)C1)C | C13H16ClN3O
